US05733914
To a suspension of NaH (60% in mineral oil, 36 mg) in 7 mL of dimethylformamide was added 2-amino-6-(2,6-dichlorophenyl)-pyrido[2,3-d]pyrimidin-7(8H)-one (195 mg, 0.64 mmol). The mixture was heated at 40° C. to 50° C. for 20 minutes, resulting in a clear solution. Methyl 4-(bromomethyl) benzoate (206 mg, 0.90 mmol) was added, and the reaction mixture was heated at 40° C. to 50° C. for 15 minutes, then poured onto 30 mL of ice water. The resulting precipitate was removed by filtration and washed with water. The solid was purified by flash chromatography, eluting with a gradient of 1:1 hexane:ethyl acetate to 1:2 hexane: ethyl acetate, then dried in vacuo to provide 204 mg of 4-[2-amino-6-(2,6-dichlorophenyl)-7-oxo-7H-pyrido[2,3-d]pyrimidin-8-ylmethyl]-benzoic acid methyl ester containing 0.16 equivalents of ethyl acetate; mp 235°-237° C.

reactant | NaH | 36 mg | [H-].[Na+]
reactant | 2-amino-6-(2,6-dichlorophenyl)-pyrido[2,3-d]pyrimidin-7(8H)-one | 0.64 mmol, 195 mg | NC=1N=CC2=C(N1)NC(C(=C2)C2=C(C=CC=C2Cl)Cl)=O | C13H8Cl2N4O
reactant | Methyl 4-(bromomethyl) benzoate | 0.90 mmol, 206 mg | COC(=O)C1=CC=C(C=C1)CBr | C9H9BrO2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 7 mL | CN(C=O)C | C3H7NO
product | 4-[2-amino-6-(2,6-dichlorophenyl)-7-oxo-7H-pyrido[2,3-d]pyrimidin-8-ylmethyl]-benzoic acid methyl ester | 204 mg, 0.16 equivalents | COC(C1=CC=C(C=C1)CN1C(C(=CC2=C1N=C(N=C2)N)C2=C(C=CC=C2Cl)Cl)=O)=O | C22H16Cl2N4O3
